US07807684B2
Step 3: tert-butyl 6-fluoro-3-methyl-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (37-4)
A stirred solution of 6.67 g (44.2 mmol) of 6-fluoro-3-methyl-1H-pyrazolo[3,4-b]pyridine in 100 mL of acetonitrile under nitrogen was treated with 5.40 g (44.2 mmol) of DMAP and 6.46 mL (46.4 mmol) of triethylamine. A solution of 11.56 g (53.0 mmol) of (BOC)2O in 20 mL acetonitrile was added dropwise via a cannula and the resulting reaction mixture stirred for 1 hour until completion as determined by LC/MS analysis. The reaction was quenched with brine and extracted with EtOAc (3×). The combined organic layers were washed with H2O, brine, dried over MgSO4, and concentrated in vacuo. The crude material was purified via silica gel chromatography (0-70% EtOAc/hexane) to yield the title compound. 1H NMR (CDCl3): 1.74 (s, 9H), 2.60 (s, 3H), 6.95 (d, 1H), 8.08 (t, 1H).

reactant | 6-fluoro-3-methyl-1H-pyrazolo[3,4-b]pyridine | 44.2 mmol, 6.67 g | FC1=CC=C2C(=N1)NN=C2C | C7H6FN3
reactant | triethylamine | 46.4 mmol, 6.46 mL | C(C)N(CC)CC | C6H15N
reactant | (BOC)2O | 53.0 mmol, 11.56 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | DMAP | 44.2 mmol, 5.40 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | tert-butyl 6-fluoro-3-methyl-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | FC1=CC=C2C(=N1)N(N=C2C)C(=O)OC(C)(C)C | C12H14FN3O2
